### PR TITLE
[Merged by Bors] - refactor(Data/Real/Archimedean): `sSup`/`sInf` API cleanup

### PR DESCRIPTION
**Pull request by YaelDillies**
Add a few lemmas, golf the existing ones and update the docstrings to something more precise

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by b-mehta** [comment]
It looks like this PR does far more than the title or description describe. Did you merge two PRs by accident?

**Comment by YaelDillies** [comment]
Yes, not sure how it happened as I never any merge button... Should be fixed now

File: Mathlib/Data/Real/Archimedean.lean [hunk 1]
```diff
@@ -169,115 +164,137 @@ theorem le_sSup_iff {s : Set ℝ} (h : BddAbove s) (h' : s.Nonempty) {a : ℝ} :
...
 
-/--
-As `0` is the default value for `Real.sSup` of the empty set or sets which are not bounded above, it
-suffices to show that `S` is bounded below by `0` to show that `0 ≤ sSup S`.
--/
-theorem sSup_nonneg (S : Set ℝ) (hS : ∀ x ∈ S, (0 : ℝ) ≤ x) : 0 ≤ sSup S := by
-  rcases S.eq_empty_or_nonempty with (rfl | ⟨y, hy⟩)
+/-- As `sSup s = 0` when `s` is a set of reals that's either empty or unbounded above,
+it suffices to show that all elements of `s` are at most some nonnegative number `a` to show that
+`sSup s ≤ a`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Real/Archimedean.lean:204]:
```suggestion
/-- As `sSup s = 0` when `s` is a set of reals that's empty,
it suffices to show that all elements of `s` are at most some nonnegative number `a` to show that
`sSup s ≤ a`. -/
```
or something like this mentioning the unbounded above case is confusing here since the assumption already excludes that case. Similarly below

File: Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean [hunk 2]
```diff
@@ -852,8 +852,8 @@ theorem semiconj_of_group_action_of_forall_translationNumber_eq {G : Type*} [Gro
   have hF₁ : ∀ g, ⇑(F₁ g) = f₁ g := fun _ => rfl
   have hF₂ : ∀ g, ⇑(F₂ g) = f₂ g := fun _ => rfl
   -- Now we apply `csSup_div_semiconj` and go back to `f₁` and `f₂`.
-  refine ⟨⟨⟨_, fun x y hxy => ?_⟩, fun x => ?_⟩, csSup_div_semiconj F₂ F₁ fun x => ?_⟩ <;>
-    simp only [hF₁, hF₂, ← map_inv, coe_mk]
+  refine ⟨⟨⟨fun x ↦ ⨆ g', (F₂ g')⁻¹ (F₁ g' x), fun x y hxy => ?_⟩, fun x => ?_⟩,
```
Comment (b-mehta) [inline Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:855]: What's the purpose for this change? It looks either
a) unnecessary in this PR
b) a sign that the new API is less explicit

**Comment by b-mehta** [comment]
I have modified your PR title to follow the conventions, which you can read about here: https://leanprover-community.github.io/contribute/commit.html#format. Please ensure to follow these in the future!

File: Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Dynamics/Circle/RotationNumber/TranslationNumber.lean:855]: I think it's neither. Unification seems quite fragile here, as `sSup` was now getting unfolded to its definition even though no change in the API should have caused this.

File: Mathlib/Data/Real/Archimedean.lean [hunk 3]
```diff
@@ -169,115 +164,133 @@ theorem le_sSup_iff {s : Set ℝ} (h : BddAbove s) (h' : s.Nonempty) {a : ℝ} :
...
+protected lemma le_sInf (hs : ∀ x ∈ s, a ≤ x) (ha : a ≤ 0) : a ≤ sInf s := by
+  obtain rfl | hs' := s.eq_empty_or_nonempty
+  exacts [ha.trans_eq sInf_empty.symm, le_csInf hs' hs]
+
+/-- As `⨅ i, f i = 0` when `f` is the empty function, it suffices to show that all values of `f`
+are at least some nonnegative number `a` to show that `a ≤ ⨅ i, f i`. -/
+protected lemma le_iInf (hf : ∀ i, a ≤ f i) (ha : a ≤ 0) : a ≤ ⨅ i, f i :=
+  Real.le_sInf (Set.forall_mem_range.2 hf) ha
+
+/-- As `sSup s = 0` when `s` is an empty set of reals,
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Real/Archimedean.lean:224]: I tried a semantic line-break 🤷

File: Mathlib/Analysis/Convex/Gauge.lean [hunk 4]
```diff
@@ -110,8 +110,7 @@ theorem gauge_of_subset_zero (h : s ⊆ 0) : gauge s = 0 := by
   exacts [gauge_empty, gauge_zero']
 
 /-- The gauge is always nonnegative. -/
-theorem gauge_nonneg (x : E) : 0 ≤ gauge s x :=
-  Real.sInf_nonneg _ fun _ hx => hx.1.le
+theorem gauge_nonneg (x : E) : 0 ≤ gauge s x := Real.sInf_nonneg fun _ hx => hx.1.le
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Gauge.lean:113]: I don't see the point of putting this on one line: it just makes it harder to see when the statement stops and when the proof starts. In general, unless the proof is `rfl` or `by simp`, I like it better on a separate line even if it would fit on one line. Same thing several times in the PR.

File: Mathlib/Data/Real/Archimedean.lean [hunk 5]
```diff
@@ -169,115 +164,141 @@ theorem le_sSup_iff {s : Set ℝ} (h : BddAbove s) (h' : s.Nonempty) {a : ℝ} :
...
+  obtain rfl | hs' := s.eq_empty_or_nonempty
+  exacts [ha.trans_eq sInf_empty.symm, le_csInf hs' hs]
 
-/-- As `0` is the default value for `Real.sInf` of the empty set, it suffices to show that `f i` is
-bounded below by `0` to show that `0 ≤ iInf f`.
--/
-theorem iInf_nonneg {ι} {f : ι → ℝ} (hf : ∀ i, 0 ≤ f i) : 0 ≤ iInf f :=
-  sInf_nonneg _ <| Set.forall_mem_range.2 hf
+/-- As `⨅ i, f i = 0` when the domain of the real-valued function `f` is empty, it suffices to show
+that all values of `f` are at least some nonnegative number `a` to show that `a ≤ ⨅ i, f i`.
```
Comment (sgouezel) [inline Mathlib/Data/Real/Archimedean.lean:226]:
```suggestion
that all values of `f` are at least some nonpositive number `a` to show that `a ≤ ⨅ i, f i`.
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
